US07465815B2
3-(4-Isopropylphenyl)-4,6-dimethyl-1-benzofuran-2 (3H)-one
Using hydroxy(4-isopropylphenyl)acetic acid synthesized in Reference Example 1 and 3,5-dimethylphenol, the title compound was synthesized in the same manner as in Reference Example 2. Yield 45%. Melting point: 76-77° C. (ethyl acetate-hexane).

reactant | hydroxy(4-isopropylphenyl)acetic acid | OC(C(=O)O)C1=CC=C(C=C1)C(C)C | C11H14O3
reactant | 3,5-dimethylphenol | CC=1C=C(C=C(C1)C)O | C8H10O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-(4-Isopropylphenyl)-4,6-dimethyl-1-benzofuran-2 (3H)-one | Yield 45% | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=CC(=C2)C)C)=O | C19H20O2
